US03997669
To the solution of 52 g ethyl 4-nitrophenylacetate in 350 ml dimethylformamide-toluene (1:1), 9.5 g of 50 percent sodium hydride in mineral oil are added portionwise while stirring and cooling. After 11/2 hours stirring at room temperature, 26 g methyl iodide are added dropwise and the mixture is stirred overnight at room temperature. The mixture is carefully combined with water, extracted with diethyl ether, the extract dried, filtered and evaporated. The residue is taken up in 100 ml ethanol, the solution seeded with a few crystals starting material and allowed to stand in the cold. The precipitate formed is filtered off and the filtrate evaporated, to yield the ethyl α-(4-nitrophenyl)-propionate.

reactant | ethyl 4-nitrophenylacetate | 52 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)OCC | C10H11NO4
reactant | sodium hydride | 9.5 g | [H-].[Na+]
reactant | methyl iodide | 26 g | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide toluene | 350 ml | CN(C=O)C.C1(=CC=CC=C1)C
product | ethyl α-(4-nitrophenyl)-propionate | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)OCC)C | C11H13NO4
